US09403810B2
Step 4: Ethyl 4-methyl-5-(1,4-dioxaspiro[4.5]decan-8-yl)isoxazole-3-carboxylate
A solution of ethyl 4-methyl-5-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)isoxazole-3-carboxylate (556 mg, 1.896 mmol) in ethanol (20 mL) was flushed with nitrogen and then treated with 10% Pd—C, 50% wet (Alfa Aesar, 38303) (303 mg, 2.84 mmol). The reaction mixture was stirred under an atmosphere of hydrogen at room temperature overnight. The resulting mixture was filtered through Celite®, washing with ethanol and DCM. The filtrate was concentrated under reduced pressure and the residue was passed through a 500 mg silica-TMT cartridge, eluting with ethanol:ether (1:1). The solvent was removed under reduced pressure to afford the title compound;

reactant | ethyl 4-methyl-5-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)isoxazole-3-carboxylate | 1.896 mmol, 556 mg | CC=1C(=NOC1C1=CCC2(OCCO2)CC1)C(=O)OCC | C15H19NO5
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd—C | [Pd] | Pd
product | Ethyl 4-methyl-5-(1,4-dioxaspiro[4.5]decan-8-yl)isoxazole-3-carboxylate | CC=1C(=NOC1C1CCC2(OCCO2)CC1)C(=O)OCC | C15H21NO5
